US05068334
1-(4-Chlorobenzyl)-3,4,7,8-tetrahydro-2,5(1H.6H)-quinolinedione
Prepared analogously to Example 29 from 3,4,7,8- tetrahydro-2,5(1H,6H)-quinolinedione and 4-chlorobenzyl- chloride.

reactant | 3,4,7,8- tetrahydro-2,5(1H,6H)-quinolinedione | N1C(CCC=2C(CCCC12)=O)=O | C9H11NO2
reactant | 4-chlorobenzyl- chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
product | 1-(4-Chlorobenzyl)-3,4,7,8-tetrahydro-2,5(1H.6H)-quinolinedione | ClC1=CC=C(CN2C(CCC=3C(CCCC23)=O)=O)C=C1 | C16H16ClNO2
